US07053212B2
Step A: 4-(Tetrahydro-pyran-2-yloxy)-benzaldehyde
To 4-hydroxybenzaldehyde (10.0 g, 81.89 mmol) was added 175 mL methylene chloride, 3,4-dihydro-2H-pyran (18.7 mL, 204.97 mmol) and pyridinium p-toluenesulfonate (2.06 g, 8.2 mmol). The reaction mixture was stirred at room temperature for three days. The reaction mixture was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with a second portion of methylene chloride. The combined organic layers were washed with saturated aqueous sodium chloride, which was then back-extracted with methylene chloride. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. Silica gel flash chromatography of the residue (10% ether/hexanes to 20% ether/hexanes) afforded 17.32 g of the title compound of Step A. MS 207.4 (M+1)+Step B: [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine

reactant | 4-hydroxybenzaldehyde | 81.89 mmol, 10.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3,4-dihydro-2H-pyran | 204.97 mmol, 18.7 mL | O1CCCC=C1 | C5H8O
catalyst | pyridinium p-toluenesulfonate | 8.2 mmol, 2.06 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 175 mL | C(Cl)Cl | CH2Cl2
product | 4-(Tetrahydro-pyran-2-yloxy)-benzaldehyde | 17.32 g | O1C(CCCC1)OC1=CC=C(C=O)C=C1 | C12H14O3
